* OVERALL BEST CANDIDATE: 00_Phase_3_277V_Lighting_to_3_3V_Logic_Buck_g2_cand2_b7
* FITNESS SCORE: 0.8277
*
* Generated: 2026-06-08T06:07:16
* Constraint: Phase 3: 277V Lighting to 3.3V Logic (Buck)
*   vin_min = 250
*   vin_max = 300
*   vout_target = 3.3
*   efficiency_target = 0.92
*   power_in = 200
* Candidate: 5 of 12
* Grouped name: g2_cand2
*
* Generated: 2026-06-08T05:53:11
* Constraint: Phase 3: 277V Lighting to 3.3V Logic (Buck)
*   vin_min = 250
*   vin_max = 300
*   vout_target = 3.3
*   efficiency_target = 0.92
*   power_in = 200
* Candidate: 2 of 12
* Grouped name: g1_cand2
Vin in 0 277
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 220u
Rload out 0 0.278
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
