* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_7
* Fitness: 0.9117
*
* --- Active Constraints ---
* _comment: Phase 3: 277V Lighting to 3.3V Logic (Buck)
* vin_min: 250
* vin_max: 300
* vout_target: 3.3
* efficiency_target: 0.92
* power_in: 200
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 0.734149
* efficiency: 1.000000
* total_volume_cm3: 21.880000
* total_components: 4
* ============================

* 277V to 3.3V Buck, 200W
Vin in 0 277
M1 in gate sw sw NMOS W=2 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 220u
Rload out 0 0.05445
Vgate gate sw PULSE(0 12 0 1n 1n 11.6667u 10m)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end